US08426448B2
Dissolve 1-(6-bromo-pyridin-2-yl)-1-methyl-ethylamine (2.24 g, 10.4 mmol) in water (45 mL) and tert-butanol (45 mL). Add 1 N NaOH (10.4 mL, 10.4 mmol); then add di-tert-butyldicarbonate (2.5 g, 11.4 mmol) in portions. Stir the reaction at ambient temperature for 3 days. Extract with dichloromethane (3×30 mL). Wash the organics with brine (25 mL); dry over Na2SO4, filter, and evaporate. Purify the crude product over silica (220 g column) eluting with 25% EtOAc:hexanes to give [1-(6-bromo-pyridin-2-yl)-1-methyl-ethyl]-carbamic acid tert-butyl ester as a white solid (2.5 g, 76%). MS (m/z): 315, 317 (M+H)+.

reactant | 1-(6-bromo-pyridin-2-yl)-1-methyl-ethylamine | 10.4 mmol, 2.24 g | BrC1=CC=CC(=N1)C(C)(C)N | C8H11BrN2
reactant | NaOH | 10.4 mmol, 1 N, 10.4 mL | [OH-].[Na+]
reactant | di-tert-butyldicarbonate | 11.4 mmol, 2.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 45 mL | O | H2O
solvent | tert-butanol | 45 mL | C(C)(C)(C)O | C4H10O
product | [1-(6-bromo-pyridin-2-yl)-1-methyl-ethyl]-carbamic acid tert-butyl ester | 2.5 g, 76% | C(C)(C)(C)OC(NC(C)(C)C1=NC(=CC=C1)Br)=O | C13H19BrN2O2
